US07300904B2
Preparation of (bis-(2-decylsulfanyl-ethyl)-amine)
A solution of NaOH (3 g, 75 mmol) and decanethiol (15.5 ml, 75 mmol) in ethanol (75 ml) was added to a solution of bis(2-chloroethyl)amine hydrochloride (4.4 g, 25 mmol) in ethanol (50 ml) at 0° C. The solution was stirred for 2 hours at 0° C. and then for another 16 h at room temperature. After filtering, the filtrate was evaporated to dryness. The residue was taken up with dry ether and filtered again. After evaporation of the solvent under vacuum, the product remained as a colourless semi-solid. Yield: 9.4 g (90%). 1H-NMR (CDCl3) δ 0.87 (6H, t, CH3), 1.25-1.4 (28H, m, SC2H4C7H14CH3), 1.56 (4H, qn, SCH2CH2C8H17), 1.88 (1H, s, NH), 2.52 (4H, qt, SHCH2C9H19), 2.69 (4H, t, SCH2CH2NH), 2.82 (4H, t, NCH2).

reactant | NaOH | 75 mmol, 3 g | [OH-].[Na+]
reactant | decanethiol | 75 mmol, 15.5 ml | C(CCCCCCCCC)S | C10H22S
reactant | bis(2-chloroethyl)amine hydrochloride | 25 mmol, 4.4 g | Cl.ClCCNCCCl
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | bis-(2-decylsulfanyl-ethyl)-amine | C(CCCCCCCCC)SCCNCCSCCCCCCCCCC | C24H51NS2
